US07465730B2
To a stirring solution of crude 1-[4-acetyl-1-(4-ethoxy-2-methoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone prepared as above (90 mg, 0.3 mmol) in 5.0 mL of CH2Cl2 at 0° C. was added BBr3 (1.0 M in CH2Cl2, 0.9 mL, 0.9 mmol). After 1 h at 0° C., it was warmed to rt and stirred for an additional 2 h before it was quenched with saturated aq. NaHCO3 solution (5 mL). It was extracted with EtOAc (2×10 mL), and the combined organic extracts were washed with dried with MgSO4, filtered, and concentrated in vacuo to afford the crude product as a yellow oil. This crude material was purified by automated chromatography on silica gel (using 20-50%EtOAc/hexanes gradient) to give the major product 1-[4-acetyl-1-(4-hydroxy-2-methoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone as pale yellow oil: MS (ESI) 302 (M+H)+; In this reaction, small amount (˜10%) of minor product 1-[4-acetyl-1-(2,4-dihydroxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone was also isolated as clear colorless oil: MS (ESI) 288 (M+H)+.

reactant | 1-[4-acetyl-1-(4-ethoxy-2-methoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone | C(C)(=O)C=1C(=C(N(C1C)C1=C(C=C(C=C1)OCC)OC)C)C(C)=O | C19H23NO4
reactant | BBr3 | 0.9 mmol, 1.0 M, 0.9 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-acetyl-1-(4-hydroxy-2-methoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone | C(C)(=O)C=1C(=C(N(C1C)C1=C(C=C(C=C1)O)OC)C)C(C)=O | C17H19NO4
